US09029565B1
Into a flask containing benzoyl chloride (206 g) and dichloromethane (2 L) was added aluminum chloride (200 g) while stirring. After 30 minutes at ambient temperature the flask was placed in a water bath and a condenser was connected through which 2-methylfuran (210 mL) was added dropwise over 30 minutes. The resulting mixture was stirred for 7 hours then carefully poured into cold water (3 L). The organic layer was collected, washed with water and concentrated to afford (5-methylfuran-2-yl)(phenyl)methanone as an oily product (220 g).

reactant | benzoyl chloride | 206 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | dichloromethane | 2 L | ClCCl | CH2Cl2
reactant | aluminum chloride | 200 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-methylfuran | 210 mL | CC=1OC=CC1 | C5H6O
solvent | water | 3 L | O | H2O
product | (5-methylfuran-2-yl)(phenyl)methanone | CC1=CC=C(O1)C(=O)C1=CC=CC=C1 | C12H10O2
